US08669234B2
(1-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (2.6 g, 5.8 mmol) in DMF (60 mL) was treated with NaH (60% dispersion in mineral oil, 256 mg, 6.4 mmol) in one portion. After 5 min, the mixture was treated with SEMCl (1.08 mL, 6.1 mmol) in 0.1 mL portions over 10 min. The reaction was stirred for 2 hours and diluted with saturated NH4Cl solution (50 mL) and EtOAc (100 mL). The organic layer was washed with H2O (3 50 mL) and brine (50 mL). The solution was dried over MgSO4 and subjected to a 120 g SiO2 COMBIFLASH column (0-100% EtOAc-hexanes gradient) to afford (1-{2-[5-(4-bromo-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl)-2-methyl-propyl)-carbamic acid methyl ester (2.4 g, 71%).

reactant | (1-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 5.8 mmol, 2.6 g | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)Br)=O | C20H25BrN4O3
reactant | NaH | 6.4 mmol, 256 mg | [H-].[Na+]
reactant | SEMCl | 6.1 mmol, 1.08 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (1-{2-[5-(4-bromo-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl)-2-methyl-propyl)-carbamic acid methyl ester | 2.4 g, 71% | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1N(C(=CN1)C1=CC=C(C=C1)Br)COCC[Si](C)(C)C)=O | C26H39BrN4O4Si
